US20010016659A1
Caution: this is a highly hazardous, potentially explosive reaction. To a stirring solution of 4-chloropyridine (10.0 g) in N-methylformamide (250 mL) at room temp. was added conc. H2SO4 (3.55 mL) to generate an exotherm. To this mixture was added H202 (30°/O wt in H20, 17 mL) followed by FeSO4-7H2O (0.56 g) to generate another exotherm. The resulting mixture was stirred in the dark at room temp. for 1 h, then warned slowly over 4 h to 45° C. . When bubbling had subsided, the reaction was heated at 60° C. for 16 h. The resulting opaque brown solution was diluted with H2O (700 mL) followed by a 10% NaOH solution (250 mL). The resulting mixture was extracted with EtOAc (3×500 mL). The organic phases were washed separately with a saturated NaCl solution (3×150 mL), then they were combined, dried (MgSO4) and filtered through a pad of silica gel with the aid of EtOAc. The resulting brown oil was purified by column chromatography (gradient from 50% EtOAc/50% hexane to 80% EtOAc/20% hexane). The resulting yellow oil crystallized at 0° C. over 72 h to give 4-chloro—N-methyl-2-pyridinecarboxamide (0.61 g, 5.3%): TLC (50% EtOAc/50% hexane) Rf 0.50; 1H NMR (CDCl3) δ3.04 (d, J=5.1 Hz, 3H), 7.43 (dd, J=5.4, 2.4 Hz, 1H), 7.96 (br s, 1H), 8.21 (s, 1H), 8.44 (d, J=5.1 Hz, 1 H); Cl-MS m/z 171 ((M+H)+).

reactant | 4-chloropyridine | 10.0 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | H2SO4 | 3.55 mL | OS(=O)(=O)O | H2O4S
reactant | N-methylformamide | 250 mL | CNC=O | C2H5NO
product | 4-chloro—N-methyl-2-pyridinecarboxamide | 0.61 g, 5.3% | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
